US04937343
Preparation of 2-(3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl-5-fluoro-1,2-benzisothiazol-3(2H)one 1,1-dioxide
0.03 mol of 5-fluoro-2-(3-bromopropyl)-1,2-benzisothiazol-3(2H)one 1,1-dioxide and 0.03 mol of 1-(2-pyrimidinyl)piperazine are stirred at 50° to 60° C. with 0.03 mol of K2CO3 in 100 ml of absolute DMF for 2 hours. The mixture is then evaporated, water is added to the residue and the base is extracted with methylene chloride. Purification is carried out by chromatography on silica gel; the eluting agent is CH2Cl2 /CH3OH (98:2), recrystallisation is on roluol.

reactant | 5-fluoro-2-(3-bromopropyl)-1,2-benzisothiazol-3(2H)one 1,1-dioxide | 0.03 mol | FC=1C=CC2=C(C(N(S2(=O)=O)CCCBr)=O)C1 | C10H9BrFNO3S
reactant | 1-(2-pyrimidinyl)piperazine | 0.03 mol | N1=C(N=CC=C1)N1CCNCC1 | C8H12N4
reactant | K2CO3 | 0.03 mol | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 3-(4-(2-pyrimidinyl)-1-piperazinyl)propyl-5-fluoro-1,2-benzisothiazol-3(2H)one 1,1-dioxide | N1=C(N=CC=C1)N1CCN(CC1)CCCN1S(C2=C(C1=O)C=C(C=C2)F)(=O)=O | C18H20FN5O3S
